US08648066B2
2-amino-N-(2-amino-2-methylpropyl)-5-{4-[(7S)-7-ethyl-5,6,7,8-tetrahydroquinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}pyridine-3-sulfonamide.
Prepared according to the method of example 5 by using {4-[(7S)-7-ethyl-5,6,7,8-tetrahydroquinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}boronic acid (reagent preparation 23) and 2-amino-N-(2-amino-2-methylpropyl)-5-bromopyridine-3-sulfonamide (reagent preparation 25) in step 1. 1H NMR (400 MHz, d6-DMSO): 8.48 (d, 1H), 8.33 (s, 1H), 8.01 (d, 1H), 7.54 (d, 1H), 7.42 (dd, 1H), 7.01 (d, 1H), 7.72 (brs, 2H), 4.69 (dd, 2H), 4.37 (m, 1H), 4.23 (m, 1H), 3.85 (m, 2H), 2.93 (m, 2H), 2.60 (s, 2H), 2.27 (dd, 1H), 1.87 (m, 1H), 1.70 (m, 1H), 1.35 (m, 2H), 1.10 (m, 1H), 0.93 (t, 3H), 0.92 (s, 6H); MS (EI) for C28H37N7O3S: 552 (MH+).

reactant | {4-[(7S)-7-ethyl-5,6,7,8-tetrahydroquinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}boronic acid | C(C)[C@H]1CCC=2C(=NC=NC2C1)N1CCOC2=C(C1)C=C(C=C2)B(O)O | C19H24BN3O3
reactant | 2-amino-N-(2-amino-2-methylpropyl)-5-bromopyridine-3-sulfonamide | NC1=NC=C(C=C1S(=O)(=O)NCC(C)(C)N)Br | C9H15BrN4O2S
product | 2-amino-N-(2-amino-2-methylpropyl)-5-{4-[(7S)-7-ethyl-5,6,7,8-tetrahydroquinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}pyridine-3-sulfonamide | NC1=NC=C(C=C1S(=O)(=O)NCC(C)(C)N)C=1C=CC2=C(CN(CCO2)C2=NC=NC=3C[C@H](CCC23)CC)C1 | C28H37N7O3S
